US07605118B2
To cyclooctene (300 g, 2.73 mol) were added acetic anhydride (556 g, 5.45 mol) and zinc chloride (30 g, 0.22 mol). The reaction mixture was warmed to 90-95° C. within 30 min., stirred at that temperature during 7.5 hours, cooled to 60° C., and treated with caution, within 10 min., with water (400 ml). The resulting mixture was heated at 100° C. during 3 h., cooled to 25° C., and extracted with hexane (3×300 ml). The combined organic phases were washed with aq. sat. NaCl soln. (800 ml), aq. sat. NaHCO3 soln. (800 ml), aq. sat. NaCl soln. (400 ml), and dried (Na2SO4). Evaporation of the solvent led to 375 g of crude material which was distilled under vacuum with a short-path Vigreux column. After collecting the unreacted cyclooctene (65 g, 21.7%) at 40-50° C./100 mbar, the fractions distilling at 110° C./24 mbar were collected (144 g) and redistilled using a microdistillation column (20×1.5 cm, filled with 3×3 mm rolled wire netting) to give 110 g of 1-cyclooct-3-enylethanone (34% based on the reacted cyclooctene, 109° C./20 mbar) as colourless oil.

reactant | cyclooctene | 2.73 mol, 300 g | C1=CCCCCCC1 | C8H14
reactant | acetic anhydride | 5.45 mol, 556 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 0.22 mol, 30 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 400 ml | O | H2O
product | 1-cyclooct-3-enylethanone | 110 g | C1(CC=CCCCC1)C(C)=O | C10H16O
